US05648521
N,N'-Oxalylbiscaprolactam
Oxalyl dichloride (63.4 g, 0.5 mol) is added dropwise in the course of 30 minutes to a solution of ε-caprolactam (107.6 g, 0.95 mol) in toluene (300 ml). The internal temperature increases in the course of this from 20 to 60° C. The mixture is then refluxed for 2 hours. After removal of the solvent in vacuo, the resulting oil is taken up in methanol, the colorless precipitate precipitating out in the cold is isolated and dried. Yield 113.8 g (86%).

reactant | Oxalyl dichloride | 0.5 mol, 63.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ε-caprolactam | 0.95 mol, 107.6 g | C1(CCCCCN1)=O | C6H11NO
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | N,N'-Oxalylbiscaprolactam | C(C(=O)N1C(CCCCC1)=O)(=O)N1C(CCCCC1)=O | C14H20N2O4
